US05596000
2.68 g of Z-Pal-N(Me)Bzl (6.85 mMol) are dissolved in 30 ml of MeOH and after adding 0.3 g of Pd-carbon hydrogenated for 5 hours at ambient temperature and 5 bar. Then, the mixture is filtered, the filtrate is concentrated on the rotary evaporator, the residue is dissolved in ether, filtered and the filtrate is again concentrated. H-Pal-N(Me)Bzl is obtained as a light green oil. [α]D20 (MeOH)=+38.8°.

reactant | Z-Pal-N(Me)Bzl | 6.85 mMol, 2.68 g | N([C@@H](CC1=CC=CN=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C24H25N3O3
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd carbon | 0.3 g | [Pd].[C]
product | H-Pal-N(Me)Bzl | N[C@@H](CC1=CC=CN=C1)C(=O)N(C)CC1=CC=CC=C1 | C16H19N3O
